US07173040B2
6-[chloro(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone (0.0045 mol) was added at 5° C. to THF (25 ml) under N2 flow. NH3/2-propanol saturated (25 ml) was added dropwise. The mixture was kept for 1 hour, poured out into water and extracted with CH2Cl2. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated till dryness. The residue (2.6 g) was purified by column chromatography over silica gel (eluent: toluene/iPrOH/NH4OH; 50/50/1; 15–40 μm). The pure fractions were collected and the solvent was evaporated. The residue (1.6 g, 73%) was crystallized from CH3CN/DIPE. The precipitate was filtered off and dried. The residue (1.3 g, 59%) was purified by column chromatography over kromasil 10 μm (eluent: CH3OH/H2O; 60/40). The pure fractions were collected and the solvent was evaporated. The residue (1.4 g, 63%) was crystallized from CH3CN/DIPE. The precipitate was filtered off and dried, yielding 1.26 g (57%) of 6-[amino(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone, mp. 210° C.

reactant | 6-[chloro(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | 0.0045 mol | ClC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=NN=CN1C)C1=CC=C(C=C1)Cl | C26H19Cl3N4O
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | NH3 2-propanol | 25 ml | N.CC(C)O
solvent | water | O | H2O
product | 6-[amino(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | 1.26 g, 57% | NC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=NN=CN1C)C1=CC=C(C=C1)Cl | C26H21Cl2N5O
